US06066639
The 3-iodo-5-methoxycarbonyl-1-triisopropylsilylpyrrole starting material can be prepared as follows. Sodium hydride (80% dispersion; 660 mg, 22 mmol) was washed with pentane and suspended in tetrahydrofuran (20 mL). A solution of methyl pyrrole-2-carboxylate (1.251 g, 10 mmol) in tetrahydrofuran (10 mL) was added and the mixture stirred at room temperature. When gas evolution ceased, triisopropylsilyl chloride (1.928 mg, 10 mmol) was added dropwise, and the mixture was stirred for 1 hour, heated at reflux overnight, and partitioned between ether and water. The ethereal layer was dried (magnesium sulfate) and concentrated in vacuo. The residue was purified by chromatography using hexanes:ethyl acetate (8:1) to yield 2-methoxycarbonyl-1-triisopropylsilylpyrrole as an oil (2.05 g, 73%): 1H NMR (CDCl3) δ 7.12 (m, 2H), 6.26 (m, 1H), 3.78 (m, 3H), 1.76 (sept, 3H, J=7.6 Hz), 1.04 (d, 18 H, J=7.6 Hz).

reactant | 3-iodo-5-methoxycarbonyl-1-triisopropylsilylpyrrole | IC1=CN(C(=C1)C(=O)OC)[Si](C(C)C)(C(C)C)C(C)C | C15H26INO2Si
reactant | Sodium hydride | 22 mmol, 660 mg | [H-].[Na+]
reactant | methyl pyrrole-2-carboxylate | 10 mmol, 1.251 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | triisopropylsilyl chloride | 10 mmol, 1.928 mg | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-methoxycarbonyl-1-triisopropylsilylpyrrole | 2.05 g, 73% | COC(=O)C=1N(C=CC1)[Si](C(C)C)(C(C)C)C(C)C | C15H27NO2Si
